US08912169B2
Step 2. Synthesis of tert-butyl 3-((2R)-2-(2-(trans-4-(tert-butoxycarbonyl(2-(tert-butoxycarbonyl(methyl)amino)ethyl)amino)cyclohexyl)-3-hydroxypropanamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate
To tert-butyl 3-((2R)-2-(2-(trans-4-(tert-butoxycarbonyl(2-(tert-butoxycarbonyl(methyl)amino)ethyl)amino)cyclohexyl)acetamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate (110 mg) in THF (5 mL) was added LDA (2 M in benzene, 160 μL) at −76° C. The reaction mixture was stirred at same temperature for 30 min before formaldehyde (20 mg) was added. The reaction mixture was allowed to warm up to RT and stirred for 4 hr. Brine was added and extracted with EtOAc. The organic phase was dried and concentrated to afford the crude product which was used to next step without further purification.

reactant | tert-butyl 3-((2R)-2-(2-(trans-4-(tert-butoxycarbonyl(2-(tert-butoxycarbonyl(methyl)amino)ethyl)amino)cyclohexyl)acetamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | 110 mg | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)CC(=O)N[C@@H](CC=1C(=C(C(=O)OC(C)(C)C)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C)CCN(C)C(=O)OC(C)(C)C | C45H72BN3O10
reactant | LDA | 2 M, 160 μL | [Li+].CC(C)[N-]C(C)C
reactant | formaldehyde | 20 mg | C=O | CH2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | tert-butyl 3-((2R)-2-(2-(trans-4-(tert-butoxycarbonyl(2-(tert-butoxycarbonyl(methyl)amino)ethyl)amino)cyclohexyl)-3-hydroxypropanamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C(C(=O)N[C@@H](CC=1C(=C(C(=O)OC(C)(C)C)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C)CO)CCN(C)C(=O)OC(C)(C)C | C46H74BN3O11
